US04317823
4-[(hexahydro-4-methyl-1H-1,4-diazepin-1-yl)acetyl]-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one
are obtained analogously by reacting 4-chloroacetyl-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one with corresponding amounts (instead of with N-methylpiperazine) of morpholine, N-benzylpiperazine, N-ethylpiperazine, 1,3-dimethylpiperazine, N,N,N'-trimethylethylenediamine, N,N,N'-triethylethylenediamine, N'-ethyl-N,N-dimethylethylenediamine and hexahydro-1-methyl-1H-1,4-diazepine, respectively.

reactant | 4-chloroacetyl-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one | ClCC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)N(N=C2C)C | C14H13ClN4O2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | N-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | N-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
reactant | 1,3-dimethylpiperazine | CN1CC(NCC1)C | C6H14N2
reactant | N,N,N'-trimethylethylenediamine | CN(CCNC)C | C5H14N2
reactant | N,N,N'-triethylethylenediamine | C(C)N(CCNCC)CC | C8H20N2
reactant | N'-ethyl-N,N-dimethylethylenediamine | C(C)NCCN(C)C | C6H16N2
reactant | hexahydro-1-methyl-1H-1,4-diazepine | CN1CCNCCC1 | C6H14N2
product | 4-[(hexahydro-4-methyl-1H-1,4-diazepin-1-yl)acetyl]-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one | CN1CCN(CCC1)CC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)N(N=C2C)C | C20H26N6O2
